US07951819B2
N-(5-(2-Amino-3-nitropyridin-4-yloxy)-2,3,4-trifluorophenyl)-3-(trifluoromethoxy)benzamide
Method H was used with 4-(5-amino-2,3,4-trifluorophenoxy)-3-nitropyridin-2-amine and 3-(trifluoromethoxy)benzoyl chloride to afford the title compound (140 mg, 57%). 1H NMR δ (DMSO): 6.26 (d, 1H, Hpy,5, J=5.5 Hz), 7.35 (s, 2H, NH2), 7.55 (t, 1H, Harom,6′, J=6.5 Hz), 7.66 (d, 1H, Harom), 7.71 (t, 1H, Harom,5″, J=8.0 Hz), 7.91 (s, 1H, Harom,2″), 8.00 (d, 1H, Harom), 8.08 (d, 1H, HPy,6, J=5.5 Hz), 10.63 (s, 1H, NHamide). 19F NMR δ (DMSO): −56.28 (s, 3F, CF3), −141.42 (d, 1F, aromF, J=21.5 Hz), −152.31 (d, 1F, aromF, J=21.5 Hz), −156.04 (t, 1F, F3, J=21.5 Hz).

reactant | 4-(5-amino-2,3,4-trifluorophenoxy)-3-nitropyridin-2-amine | NC=1C(=C(C(=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C1)F)F)F | C11H7F3N4O3
reactant | 3-(trifluoromethoxy)benzoyl chloride | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
product | N-(5-(2-Amino-3-nitropyridin-4-yloxy)-2,3,4-trifluorophenyl)-3-(trifluoromethoxy)benzamide | 140 mg, 57% | NC1=NC=CC(=C1[N+](=O)[O-])OC=1C(=C(C(=C(C1)NC(C1=CC(=CC=C1)OC(F)(F)F)=O)F)F)F | C19H10F6N4O5
